Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Low back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old male with HLD and h/o Lyme disease who
presents with 1 month of low back pain.

His back pain began after he had an LP in early ___ as part of
a work-up for possible CNS Lyme disease. Since last ___, when
he was last diagnosed with Lyme disease, he has been
intermittently "not acting like himself" and sometimes having
decreased attention. His wife describes that he has had several
days where he wakes up not remembering the previous day. He was
seeing an ID doctor who was not confident that he had CNS Lyme,
but had recommended an LP to evaluate.

The next day after the procedure, he developed severe back pain
at the site of the LP, which does not radiate and which is
worsened with movement. He presented to ___ hospital and was sent
home with Lidoderm patches. For two weeks, he states he was
"incapacitated" by the pain, unable to do anything. With
oxycodone, the pain has been slightly dulled and he is able to 
be
up and moving around. However, he is still extremely limited in
his activities such as carrying groceries, driving for long
periods of time. Pain is exacerbating with twisting motion.

Subsequently, he developed numbness in his R fourth and fifth
digits, now progressed to his R ulnar forearm. He has continued
to have back pain throughout the past month. He has had ___ MRIs 
at
OSH, the first of which was initially suggestive of
inflammation/infection in the L spine and the second more
definitively with a collection. On review by OSH neurosurgery, 
he
was recommended to come to ___.

He denies fevers, ___ weakness/numbness, bowel and bladder
incontinence, and saddle anesthesia.

 
Past Medical History:
- Lyme Disease (multiple episodes; last episode ___
- Hyperlipidemia
 
Social History:
___
Family History:
Mother without significant medical history.
Father with dementia and cardiac disease. Sister with GU cancer
(specifics unclear). No family history of immune or hematologic
disease.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITAL SIGNS: T 97.7, BP 130/76, HR 85, RR 18, O2 95%RA
GENERAL: Well-appearing, NAD.
HEENT: NC/AT. PERRL. EOMI.
NECK: Supple, nontender.
CARDIAC: NR, RR. Nl S1, S2. No m/r/g.
LUNGS: CTAB. Good air movement throughout.
ABDOMEN: +BS. Soft, nontender, nondistended.
EXTREMITIES: No ___ edema. No spinal tenderness. No paraspinal
tenderness.
NEUROLOGIC: AOx3. CN II-XII intact. Strength ___ in BUE/BLE with
exception of R finger grip strength ___. Sensation intact 
BUE/BLE
with exception of decreased sensation in R ___ & ___ digits and
ulnar surface of R hand.
SKIN: No rashes, lesions, macules.

DISCHARGE PHYSICAL EXAM:
========================
VITAL SIGNS: 24 HR Data (last updated ___ @ 752)
    Temp: 97.6 (Tm 98.5), BP: 112/67 (112-147/67-84), HR: 73
(73-94), RR: 18 (___), O2 sat: 96% (94-96), O2 delivery: Ra,
Wt: 179.67 lb/81.5 kg  
GENERAL: Well-appearing, NAD.
HEENT: NC/AT. PERRL. EOMI.
NECK: Supple, nontender.
CARDIAC: NR, RR. Nl S1, S2. No m/r/g.
LUNGS: CTAB. Good air movement throughout.
ABDOMEN: +BS. Soft, nontender, nondistended.
EXTREMITIES: No ___ edema. R paraspinal tenderness at level of L4 
with overlying swelling vs. fat pad. No redness, erythema, or 
gross deformity. 
NEUROLOGIC: AOx3. CN II-XII intact. Strength ___ in BUE/BLE with
exception of R finger grip strength ___. Sensation intact 
BUE/BLE
with exception of decreased sensation in R ___ & ___ digits and
ulnar surface of R hand.
SKIN: No rashes, lesions, macules

 
Pertinent Results:
===============
ADMISSION LABS:
___
___ 12:50PM BLOOD WBC-7.2 RBC-4.34* Hgb-12.8* Hct-37.8* 
MCV-87 MCH-29.5 MCHC-33.9 RDW-13.3 RDWSD-42.3 Plt ___
___ 12:50PM BLOOD Neuts-58.2 ___ Monos-8.1 Eos-1.3 
Baso-0.8 Im ___ AbsNeut-4.18 AbsLymp-2.24 AbsMono-0.58 
AbsEos-0.09 AbsBaso-0.06
___ 12:50PM BLOOD ___ PTT-29.7 ___
___ 12:50PM BLOOD Glucose-89 UreaN-10 Creat-0.5 Na-139 
K-4.4 Cl-100 HCO3-27 AnGap-12
___ 01:15PM BLOOD Lactate-1.2

========================
PERTINENT INTERVAL LABS:
========================

___ 12:50PM BLOOD CRP-2.0

Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          17                  < OR = 20 mm/h

===============
DISCHARGE LABS:
===============
___ 06:30AM BLOOD WBC-5.3 RBC-4.35* Hgb-12.7* Hct-38.2* 
MCV-88 MCH-29.2 MCHC-33.2 RDW-13.5 RDWSD-43.3 Plt ___
___ 06:30AM BLOOD Glucose-81 UreaN-9 Creat-0.5 Na-141 K-4.7 
Cl-103 HCO3-26 AnGap-12
___ 06:30AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.1

================
IMAGING STUDIES:
================

MRI L-SPINE (___):
1. Marrow edema pattern of the right C3-C4 facets extending to 
the right C4 pedicle with small facet joint effusion and 
surrounding paraspinal muscle edema which enhances.  Overall the 
findings have slightly progressed from examination of ___.  In addition, there is approximately 4 mm thick right 
ventral epidural thickening and enhancement at the L4 level. The 
findings could represent infectious synovitis with epidural 
phlegmon in the appropriate clinical setting.  Clinical 
correlation is recommended. 
2. Degenerative changes in the cervical spine are most prominent 
at C5-C6 and C6-C7 where there is moderate spinal canal 
narrowing.  Moderate to severe left C5-C6 neural foraminal 
narrowing and bilateral C6-C7 neural foraminal narrowing also 
noted.  Please note, evaluation of neural foraminal narrowing is 
suboptimal secondary to motion degradation. 
3. No significant spinal canal or neural foraminal narrowing of 
the thoracic  spine. 
4. Lumbar spondylosis most prominent at L5-S1 where there is 
moderate to 
severe left and moderate right neural foraminal narrowing. 
5. There is no abnormal signal or enhancement of the cord, conus 
medullaris or cauda equina. 
6. Additional findings as described above. 

=============
MICROBIOLOGY:
=============

___ 12:25 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): No growth to date
__________________________________________________________
___ 12:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): No growth to date

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male with HLD and h/o Lyme disease who 
presented with 1 month of low back pain, found to have facet 
joint effusion and epidural thickening/enhancement at L4 on MRI, 
concerning for possible continued inflammation from LP procedure 
vs. infectious process.

ACUTE ISSUES:
=============
# L4 epidural thickening
# ?Lumbar Phlegmon
Patient presenting with 1 month of low back pain with L3-L4 
epidural thickening and L4 facet joint effusion on MRI 
concerning for progressive inflammation vs. infection after LP 
procedure in the beginning of ___. Patient has no symptoms or 
signs of cord compression on exam, and no acute surgical need 
per neurosurgery. Patient otherwise, has no systemic signs of 
infection. He looks well, non-septic appearing. He has no 
subjective or objective fevers, no leukocytosis. ESR and CRP are 
normal. However, given persistence of imaging findings and 
continued low back pain with point tenderness over L4 on exam, 
there is concern that this could represent a developing 
infection. He also has a history of a tooth abscess at the same 
time as his LP, which raises concern for a transient bacteremia 
which may have seeded the LP site. However, imaging findings are 
non-specific. Could still potentially represent ongoing 
inflammation from procedure. If this is infectious, it appears 
to be a very indolent infection, given only minimal progression 
on imaging findings over the last 4 weeks. Given concern for 
infectious process, ID was consulted on admission. ID team spoke 
with the patient about options of bone biopsy with ___ during 
this admission vs. surveillance imaging as an outpatient. 
Patient understands risk of delaying bone biopsy, but would 
prefer to pursue surveillance imaging. Plan for repeat MRI and 
blood-work in 2 weeks, with follow up in ___ clinic scheduled for 
___. If evidence of progression in 2 weeks, plan will be to 
pursue bone biopsy and cultures. He will be discharged without 
antibiotics, as he is otherwise stable, and understands he will 
call with any new or concerning symptoms. He will be discharged 
on tizanidine, NSAIDS, and tylenol for pain. He also has follow 
up scheduled with neurosurgery on discharge.

# C6-C7 radiculopathy 
Disc bulge and canal narrowing at C6-C7 c/w ulnar nerve 
distribution of decreased sensation. Per neurosurgery, expected 
to improve with anti-inflammatories and time. Follow up with 
neurosurgery scheduled at discharge. Continue Tylenol 1g TID 
PRN.

CHRONIC ISSUES;
===============
# History of Lyme disease
Reportedly 2 separate diagnoses of Lyme disease, last in ___ 
___. No signs of active Lyme disease at this time. 

# Hyperlipidemia: Continue home statin.

#Tobacco Use: Encouraged smoking cessation. Patient refusing 
nicotine patch, gum, lozenges.

TRANSITIONAL ISSUES:
====================
[ ] Repeat MRI and blood-work in 2 weeks, with follow up in ___ 
clinic scheduled for ___ at 10:00am. If evidence of progression 
in 2 weeks, plan will be to pursue bone biopsy and cultures with 
interventional radiology. 
[ ] He will be discharged without antibiotics, as he is 
otherwise stable, and understands he will call with any new or 
concerning symptoms. If any concerning symptoms arise, please 
refer to ED for IV antibiotic treatment.
[ ] Tizanidine, NSAIDS, and tylenol for pain.
[ ] Follow up scheduled with neurosurgery on discharge.

# CONTACT: Wife, ___ (___)

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Lidocaine 5% Patch 1 PTCH TD QPM 
3. OxyCODONE (Immediate Release) 5 mg PO BID:PRN Pain - Moderate 


 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 400 mg PO Q6H:PRN Pain - Moderate  
3.  Tizanidine 2 mg PO TID 
RX *tizanidine 2 mg 1 capsule(s) by mouth Three times daily as 
needed Disp #*30 Capsule Refills:*0 
4.  Atorvastatin 10 mg PO QPM  
5.  Lidocaine 5% Patch 1 PTCH TD QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
# Lumbar phlegmon, facet joint effusion (L4)

Secondary Diagnosis:
# Tobacco Use
# Cervical radiculopathy
# Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had back pain.  

What happened while I was in the hospital?  
- You were found to have concerning imaging findings on your 
MRI. It is unclear at this point whether this represents ongoing 
inflammation from your procedure or a developing infectious 
process. 
- Our infectious disease doctors have ___ and recommend 
repeat MRI in 2 weeks to monitor for any progression. If your 
imaging in 2 weeks looks worse, you will likely need a bone 
biopsy and treatment with antibiotics.
- If you develop any of the following symptoms please return to 
the ED immediately for treatment:
  - Fevers/chills
  - Worsening back pain
  - Nausea/vomiting
  - Lower extremity weakness/numbness/tingling
  - Changes in bowel or urinary habits
  - Any other symptoms that concern you

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  

 
Followup Instructions:
___